### ISSUE TITLE
`grind` fails to terminate on a CommRing example

### ISSUE THREAD

**Issue by dwrensha** [leanprover/lean4#9125]
```lean
variable {R : Type} [Lean.Grind.CommRing R]
-- My real code uses CommRing from Mathlib instead, and sees the same behavior.

def P : Nat → R → R → R
| 0, _, _ => 1
| n+1, x, y => (x + y - 1) * (y + 1) * P n x (y + 2) + (y - y^2) * P n x y

def S : Nat → R → R → R
| n, x, y => ((x + y)^2 - 1) * (y + 1) * (x + 1) * P n (y + 2) (x + 2)

theorem foo (n : Nat)
    (ih : ∀ m < n + 1 + 1, ∀ (x y : R), P m x y = P m y x)
    (h2 :
      ∀ (x y : R),
        (x + y - 1) * (y + 1) * P n.succ (y + 2) x =
        S n x y + (x + y - 1) * (y + 1) * (x - x ^ 2) * P n (y + 2) x)
    (m : Nat) (hm : m < n.succ.succ) (x y : R) :
    ((x + y) ^ 2 - 1) * (y + 1) * (x + 1) * P m (y + 2) (x + 2) =
      ((y + x) ^ 2 - 1) * (x + 1) * (y + 1) * P m (x + 2) (y + 2) := by
  grind
  -- hangs forever
```

**Comment by leodemoura** [comment]
@dwrensha We are going to add better support for aborting expensive polynomial computations. Some of them are currently performed by pure code that cannot be aborted when the polynomials get too big. In the example above, `h2` is being instantiate several times, and the generated polynomials overload the Grobner basis procedure. The example can be solved efficiently by using `clear h2`.

```lean
variable {R : Type} [Lean.Grind.CommRing R]
-- My real code uses CommRing from Mathlib instead, and sees the same behavior.

def P : Nat → R → R → R
| 0, _, _ => 1
| n+1, x, y => (x + y - 1) * (y + 1) * P n x (y + 2) + (y - y^2) * P n x y

def S : Nat → R → R → R
| n, x, y => ((x + y)^2 - 1) * (y + 1) * (x + 1) * P n (y + 2) (x + 2)

theorem foo (n : Nat)
    (ih : ∀ m < n + 1 + 1, ∀ (x y : R), P m x y = P m y x)
    (h2 :
      ∀ (x y : R),
        (x + y - 1) * (y + 1) * P n.succ (y + 2) x =
        S n x y + (x + y - 1) * (y + 1) * (x - x ^ 2) * P n (y + 2) x)
    (m : Nat) (hm : m < n.succ.succ) (x y : R) :
    ((x + y) ^ 2 - 1) * (y + 1) * (x + 1) * P m (y + 2) (x + 2) =
      ((y + x) ^ 2 - 1) * (x + 1) * (y + 1) * P m (x + 2) (y + 2) := by
  clear h2
  grind
```

**Comment by kim-em** [comment]
@dwrensha we've also made plans to prioritize (extensibly) different symbols while selecting matching patterns, and this will prevent `grind` from picking bad patterns and instantiating `h2` as often, which is currently overwhelming the Grobner module.
